US06800785B1
A solution of 9a-butyl-2-(methoxymethoxy)-5-methyl-8,9,9a,10-tetrahydrobenzo[a]azulen-6(7H)-one(5 mg) in methanol (1 mL) was treated with aqueous 2N HCl (0.1 mL, 0.2 mmol). After stirring at 65° C. for two hours, the mixture was diluted with dichloromethane(2 mL), treated with solid NaHCO3, and purified by preparative layer chromatography on a 0.1×20×20 cm silica gel GF plate (Analtech, Newark, Del.), developing with 20% EtOAc in hexane. The UV visible product band was eluted with EtOAc and the eluant was evaporated under vacuum to provide 9a-butyl-2-hydroxy-5-methyl-8,9,9a,10-tetrahydrobenzo[a]azulen-6(7H)-one as a foam.

reactant | 9a-butyl-2-(methoxymethoxy)-5-methyl-8,9,9a,10-tetrahydrobenzo[a]azulen-6(7H)-one | 5 mg | C(CCC)C12CC3=C(C2=C(C(CCC1)=O)C)C=CC(=C3)OCOC | C21H28O3
reactant | HCl | 0.2 mmol, 2N, 0.1 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 9a-butyl-2-hydroxy-5-methyl-8,9,9a,10-tetrahydrobenzo[a]azulen-6(7H)-one | C(CCC)C12CC3=C(C2=C(C(CCC1)=O)C)C=CC(=C3)O | C19H24O2
